US04107307
8-Methyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A mixture of 10.26 gm. of 3-(5-methyl-4-imidazolylmethylene)carbazic acid ethyl ester and 100 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product, m.p. 276°-282° C.

reactant | 3-(5-methyl-4-imidazolylmethylene)carbazic acid ethyl ester | C(C)OC(NN=CC=1N=CNC1C)=O | C8H12N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 8-Methyl-imidazo[1,5-d]-as-triazin-4(3H)-one | CC=1N=CN2C(NN=CC21)=O | C6H6N4O
